US06451887B1
4-Chloro-2-nitrobenzenediazonium Chloride
To a 500 mL three-necked flask fitted with a mechanical stirrer are added 134.2 g of concentrated hydrochloric acid and 60 g of 4-chloro-2-nitroaniline. After heating to 65° C., 106.6 g of water is added at which time the temperature is reduced to 0° C. Sodium nitrite (63.4 g, 40 wt %) is slowly added to the slurry while maintaining the solution at 0° C. The diazonium salt solution (281 g) is then filtered and stored at −15° C. until later use.

reactant | hydrochloric acid | 134.2 g | Cl | ClH
reactant | 4-chloro-2-nitroaniline | 60 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | Sodium nitrite | 63.4 g | N(=O)[O-].[Na+]
solvent | water | 106.6 g | O | H2O
product | 4-Chloro-2-nitrobenzenediazonium Chloride | [Cl-].ClC1=CC(=C(C=C1)[N+]#N)[N+](=O)[O-] | InChI=1S/C6H3ClN3O2.ClH/c7-4-1-2-5(9-8)6(3-4)10(11)12;/h1-3H;1H/q+1;/p-1
